US04640915
A mixture of 4-nitrobenzyl (5R,6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-3-(1-methyl-1H-tetrazol-5-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (50 mg) and platinum (IV) oxide monohydrate (25 mg) in a mixture of dioxane (10 ml), ethanol (0.5 ml), 0.1M aqueous dipotassium hydrogen phosphate (2.35 ml) and water (3.5 ml) was shaken for an hour under a hydrogen atmosphere (40 psi) at ambient temperature. The catalyst was filtered off and the filtrate was concentrated to half of the original volume. The aqueous concentrate was washed three times with diethyl ether and evaporated in vacuo. The residue was dissolved in water (25 ml) and potassium chloride (1.25 g) was added thereto. The aqueous solution was chromatographed on non-ionic adsorption resin "Diaion HP-20 AG" (1.35×17.5 cm), eluting with water (100 ml) and 10% aqueous isopropyl alcohol (100 ml). The fractions, whose UV spectra showed λmax 289 nm, were combined and lyophilized to give potassium (5R,6R)-6-(1-hydroxy-1-methylethyl)-3-(1-methyl-1H-tetrazol-5-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (17 mg).

reactant | 4-nitrobenzyl (5R,6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-3-(1-methyl-1H-tetrazol-5-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 50 mg | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SC1=NN=NN1C | C27H25N7O10S
reactant | ethanol | 0.5 ml | C(C)O | C2H6O
reactant | dipotassium hydrogen phosphate | 0.1M, 2.35 ml | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | water | 3.5 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | platinum (IV) oxide monohydrate | 25 mg | O.[Pt](=O)=O
product | potassium (5R,6R)-6-(1-hydroxy-1-methylethyl)-3-(1-methyl-1H-tetrazol-5-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 17 mg | OC(C)(C)[C@H]1[C@H]2CC(=C(N2C1=O)C(=O)[O-])SC1=NN=NN1C.[K+] | InChI=1S/C12H15N5O4S.K/c1-12(2,21)7-5-4-6(22-11-13-14-15-16(11)3)8(10(19)20)17(5)9(7)18;/h5,7,21H,4H2,1-3H3,(H,19,20);/q;+1/p-1/t5-,7+;/m1./s1
